US08791130B2
A mixture of 4-(5-chloro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide (112 mg, 0.35 mmol) and 2-pyridyl diphenylphosphine (373 mg, 1.42 mmol) was flushed with N2 for 10 min Anhydrous THF (2 mL) was added followed by dropwise addition of diisopropyl azodicarboxylate (0.28 mL, 1.42 mmol). Diphenylphosphoryl azide (0.31 mL, 1.42 mmol) was added dropwise over 5 min. The mixture was heated at 45° C. under N2 for 18 h. The mixture was diluted with ethyl acetate (20 mL) and washed with saturated sodium hydrogen carbonate solution (2×10 mL). The combined aqueous washes were back-extracted with ethyl acetate (10 mL), and the combined organic extracts filtered through a hydrophobic frit and evaporated. Purification of the residue via silica gel column chromatography (0-100% ethyl acetate/isohexane) followed by trituration with diethyl ether gave 5-chloro-N2-(2-methoxy-4-(1-methyl-1H-tetrazol-5-yl)phenyl)-N4-methylpyrimidine-2,4-diamine as a white solid (45 mg, 38%). LCMS (10 cm_ESCI_Bicarb_MeCN): [MH+]=347 at 2.67 min. 1H NMR (400 MHz, CDCl3): δ 8.76 (d, J=8.5, 1H); 7.96 (s, 1H); 7.75 (s, 1H); 7.40 (d, J=1.9, 1H); 7.3 (d, J=2.0, 1H); 5.35 (s, 1H); 4.21 (s, 3H); 4.00 (s, 3H); 3.13 (d, J=4.9, 3H).

reactant | 4-(5-chloro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide | 0.35 mmol, 112 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=O)NC)C=C1)OC)NC | C14H16ClN5O2
reactant | 2-pyridyl diphenylphosphine | 1.42 mmol, 373 mg | N1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C17H14NP
reactant | diisopropyl azodicarboxylate | 1.42 mmol, 0.28 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Diphenylphosphoryl azide | 1.42 mmol, 0.31 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-chloro-N2-(2-methoxy-4-(1-methyl-1H-tetrazol-5-yl)phenyl)-N4-methylpyrimidine-2,4-diamine | 45 mg, 38% | ClC=1C(=NC(=NC1)NC1=C(C=C(C=C1)C1=NN=NN1C)OC)NC | C14H15ClN8O
